US05719157
Ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[2-(1-methylimidazol-2-yl)ethyl]quinoline-3-carboxylate (9.0 g) was suspended in ethanol (40 ml), and ethanolic hydrogen chloride (22%, 10 g) was added. After stirring the mixture at room temperature for 5 minutes, ethyl ether (150 ml) was added, and the resulting crystals were collected by filtration and recrystallized from ethanol-ethyl ether to give ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[2-(1-methylimidazol-2-yl)ethyl]quinoline-3-carboxylate dihydrochloride (9.1 g).

reactant | Ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[2-(1-methylimidazol-2-yl)ethyl]quinoline-3-carboxylate | 9.0 g | COC=1C=C2C(=C(C(=NC2=CC1OC)CCC=1N(C=CN1)C)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | C28H31N3O6
reactant | hydrogen chloride | 10 g | Cl | ClH
reactant | ethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[2-(1-methylimidazol-2-yl)ethyl]quinoline-3-carboxylate dihydrochloride | 9.1 g | Cl.Cl.COC=1C=C2C(=C(C(=NC2=CC1OC)CCC=1N(C=CN1)C)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | InChI=1S/C28H31N3O6.2ClH/c1-7-37-28(32)27-19(9-11-25-29-12-13-31(25)2)30-20-16-24(36-6)23(35-5)15-18(20)26(27)17-8-10-21(33-3)22(14-17)34-4;;/h8,10,12-16H,7,9,11H2,1-6H3;2*1H
